US04242261
Following the same procedure, employing α,α-diphenyl-α-(1-ethyl-3-piperidinyl)acetamide or α,α-diphenyl-α-(1-ethyl-4-azepinyl)acetamide as the starting material yields 1-ethyl-3-diphenylmethylenepyrrolidine or 1-ethyl-4-diphenylmethyleneazepine, respectively.

reactant | α,α-diphenyl-α-(1-ethyl-3-piperidinyl)acetamide | C1(=CC=CC=C1)C(C(=O)N)(C1CN(CCC1)CC)C1=CC=CC=C1 | C21H26N2O
reactant | α,α-diphenyl-α-(1-ethyl-4-azepinyl)acetamide | C1(=CC=CC=C1)C(C(=O)N)(C=1C=CN(C=CC1)CC)C1=CC=CC=C1 | C22H22N2O
product | 1-ethyl-3-diphenylmethylenepyrrolidine | C(C)N1CC(CC1)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H21N
